US06596772B1
Using procedure as in Example 10, a reaction of methyl 4-(2-hydroxyethoxy)benzoic acid methyl ester (100 mg, 0.51 mmol), NaH (22 mg, 1.1 equiv.) and 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene (148 mg, 1 equiv.) afforded 4-[2-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-ethoxy]-benzoic acid methyl ester. 1HNMR (300 MHz, DMSO-d6) δ 8.64 (d, J=2.5 Hz, 1H), 8.39 (dd, J=2.5 & 8.9 Hz, 1H), 7.89 (d, J=8.8 Hz, 2H), 7.83 (d, J=8.9 Hz, 1H), 7.06 (d, J=8.8 Hz, 2H), 4.76 (m, 2H), 4.46 (m, 2H), 3.80 (s, 3H, OCH3). MS-EI m/z 449 [M+].

reactant | methyl 4-(2-hydroxyethoxy)benzoic acid methyl ester | 0.51 mmol, 100 mg | COC(C1=C(C=C(C=C1)OCCO)C)=O | C11H14O4
reactant | NaH | 22 mg, 1.1 equiv. | [H-].[Na+]
reactant | 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene | 148 mg, 1 equiv. | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)Cl | C7H3ClF3NO4S
product | 4-[2-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-ethoxy]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])=O | C17H14F3NO8S
